US07300946B2
Step A Synthesis of 5-(4-methylphenyl)-1,2,3,4-tetraazole as an intermediate
A solution of 10.0 grams (0.085 mole) of para-toluonitrile in 160 mL of DMF was stirred and 5.6 grams (0.085 mole) of sodium azide was added. Upon completion of addition, the reaction mixture was warmed to 135° C. where it stirred for three hours. The reaction mixture was then cooled and poured into 200 mL of stirred, cold aqueous 1N hydrochloric acid. Upon completion of addition, the mixture was stirred for five minutes and filtered to collect a white solid. The solid was dried for 16 hours in a vacuum oven at 35–40° C., yielding 7.1 grams of the subject compound. The reaction was repeated.

reactant | para-toluonitrile | 0.085 mole, 10.0 grams | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | sodium azide | 0.085 mole, 5.6 grams | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
product | 5-(4-methylphenyl)-1,2,3,4-tetraazole | 7.1 grams | CC1=CC=C(C=C1)C1=NN=NN1 | C8H8N4
